US08431695B2
Intermediate Y: Preparation of Cyclopropyl-piperazin-1-yl-methanone
10% Palladium on carbon (175 mg, 10% by wt.) was placed under an inert atmosphere and suspended in EtOH (5 mL). A solution of (4-benzyl-piperazin-1-yl)-cyclopropyl-methanone (1.75 g, 7.16 mmol) dissolved in EtOH (25 mL) was added. The reaction mixture was placed under H2 atmosphere (1 atmosphere pressure) and stirred overnight. The resulting mixture was filtered through a pad of Celite® and the solvent was concentrated in vacuo to give 1.07 g (97%) of the title compound as a clear oil. 1H-NMR (300 MHz, CD3OD) 3.74 (broad s, 2H), 3.57 (broad s, 2H), 2.87 (broad s, 2H), 2.80 (broad s, 2H), 1.97 to 1.91 (m, 1H), 0.89 to 0.78 (m, 4H); ES-MS m/z 154.9 [M+H]+, RT (min) 1.02.

reactant | (4-benzyl-piperazin-1-yl)-cyclopropyl-methanone | 7.16 mmol, 1.75 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CC1 | C15H20N2O
catalyst | Palladium on carbon | 175 mg | [Pd] | Pd
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
product | Cyclopropyl-piperazin-1-yl-methanone | 1.07 g, 97% | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
